US04024145
77.5 G. of 4-chloro-3,5-dimethoxytoluene were dissolved in 1030 ml. of pyridine. The solution was heated to reflux and treated dropwise during 1 hour with a solution of 197 g. of potassium permanganate in 3100 ml. of hot water. The mixture was heated to reflux for an additional 30 minutes. Then, 1700 ml. of a pyridine/water mixture were removed by distillation. The residue was removed by filtration under suction while hot and, after cooling, the filtrate was acidified with 600 ml. of 10N sulfuric acid. The precipitate was removed by filtration and extracted with ether to recover unreacted starting material, whereby there was obtained 4-chloro-3,5-dimethoxybenzoic acid having a melting point of 247° C.

reactant | 4-chloro-3,5-dimethoxytoluene | ClC1=C(C=C(C=C1OC)C)OC | C9H11ClO2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | potassium permanganate | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | water | O | H2O
product | 4-chloro-3,5-dimethoxybenzoic acid | ClC1=C(C=C(C(=O)O)C=C1OC)OC | C9H9ClO4
